US07420055B2
Synthesis of N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-(1-methyl-1-oxazol-4-yl-ethyl)-benzenesulfonamide
Following the general procedure for synthesis of N-arylbenzenesulfonamides, 73 mg (0.32 mmol) of (2-Amino-5-chloro-phenyl)-pyridin-4-yl-methanone and 36 mg (0.13 mmol) of 4-(1-Methyl-1-oxazol-4-yl-ethyl)-benzenesulfonyl chloride were combined in 1 ml of anhydrous pyridine at 60° C. to give, after purification, the title product as a pale yellow solid: 1H NMR (CDCl3): δ (ppm): 1.61 (s, 6H), 7.26-7.66 (m, 12H), 8.90 (br, 1H), 10.13 (br, 1H) ppm; MS: (M+H)/z=482.0.

reactant | (2-Amino-5-chloro-phenyl)-pyridin-4-yl-methanone | 0.32 mmol, 73 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C12H9ClN2O
reactant | 4-(1-Methyl-1-oxazol-4-yl-ethyl)-benzenesulfonyl chloride | 0.13 mmol, 36 mg | CC(C)(C=1N=COC1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H12ClNO3S
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-(1-methyl-1-oxazol-4-yl-ethyl)-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C=1N=COC1)C)C(=O)C1=CC=NC=C1 | C24H20ClN3O4S
